*TIP100
**************************************
* Model Generated by MODPEX *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
* Modeling services provided by *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT TIP100 1 2 3
* Model generated on Mar 7, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 9.99999
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=9.99999 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=1e-12 BF=99.9989 NF=1 VAF=99.9989
+IKF=0.1 ISE=2e-12 NE=1.5 BR=1
+NR=1 VAR=99.9989 IKR=0.1 ISC=1e-13
+NC=2 RB=9.99999 IRB=0.2 RBM=9.99999
+RE=0.1 RC=1 XTB=0.5 XTI=3 EG=1.11
+CJE=2.60787e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=2.47942e-10
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=1e-12 BF=99.9989 NF=1 VAF=99.9989
+IKF=0.1 ISE=2e-12 NE=1.5 BR=1
+NR=1 VAR=99.9989 IKR=0.1 ISC=1e-13
+NC=2 RB=9.99999 IRB=0.2 RBM=9.99999
+RE=0.1 RC=1 XTB=0.5 XTI=3 EG=1.11
+CJE=2.60787e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS



*TIP101
**************************************
* Model Generated by MODPEX *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
* Modeling services provided by *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT TIP101 1 2 3
* Model generated on Mar 7, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 9.99999
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=9.99999 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=1e-12 BF=99.9989 NF=1 VAF=99.9989
+IKF=0.1 ISE=2e-12 NE=1.5 BR=1
+NR=1 VAR=99.9989 IKR=0.1 ISC=1e-13
+NC=2 RB=9.99999 IRB=0.2 RBM=9.99999
+RE=0.1 RC=1 XTB=0.5 XTI=3 EG=1.11
+CJE=2.60787e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=2.47942e-10
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=1e-12 BF=99.9989 NF=1 VAF=99.9989
+IKF=0.1 ISE=2e-12 NE=1.5 BR=1
+NR=1 VAR=99.9989 IKR=0.1 ISC=1e-13
+NC=2 RB=9.99999 IRB=0.2 RBM=9.99999
+RE=0.1 RC=1 XTB=0.5 XTI=3 EG=1.11
+CJE=2.60787e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS



*TIP102
.SUBCKT TIP102 1 2 3
**************************************
* Model Generated by MODPEX *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
*Commercial Use or Resale Restricted *
* by Symmetry License Agreement *
**************************************
* Model generated on Jan 20, 03
* MODEL FORMAT: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 11.2198
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=2.88485e-13 BF=126.335 NF=1.2 VAF=30
+IKF=0.132527 ISE=6.51929e-12 NE=1.9601 BR=0.100001
+NR=1.5 VAR=300 IKR=0.0843484 ISC=1.01027e-13
+NC=1.92564 RB=2.61873 IRB=0.2 RBM=2.61873
+RE=0.0001 RC=2.60372 XTB=0 XTI=4 EG=1.206
+CJE=1.13087e-10 VJE=0.95 MJE=0.692676 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.56651e-10
+VJC=0.908287 MJC=0.23 XCJC=0.897966 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=2.88485e-13 BF=126.335 NF=1.2 VAF=30
+IKF=0.132527 ISE=6.51929e-12 NE=1.9601 BR=0.100001
+NR=1.5 VAR=300 IKR=0.0843484 ISC=1.01027e-13
+NC=1.92564 RB=2.61873 IRB=0.2 RBM=2.61873
+RE=0.0001 RC=2.60372 XTB=0 XTI=4 EG=1.206
+CJE=1.13087e-10 VJE=0.95 MJE=0.692676 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.908287 MJC=0.23 XCJC=0.897966 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS TIP102



*TIP110
**************************************
* Model Generated by MODPEX *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
* Modeling services provided by *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT TIP110 1 2 3
* Model generated on Feb 7, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 1.34411
D1 3 1 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=3.38355e-12 BF=420.091 NF=0.999876 VAF=30
+IKF=0.0735469 ISE=9.55367e-11 NE=1.59376 BR=4.3812
+NR=0.75 VAR=92.4208 IKR=0.101198 ISC=1.00081e-13
+NC=2.00034 RB=4.89613 IRB=0.1 RBM=0.1
+RE=0.0002 RC=0.001 XTB=0.453845 XTI=2.88665 EG=1.05
+CJE=1.98486e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=4.38526e-11
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=3.38355e-12 BF=420.091 NF=0.999876 VAF=30
+IKF=0.0735469 ISE=9.55367e-11 NE=1.59376 BR=4.3812
+NR=0.75 VAR=92.4208 IKR=0.101198 ISC=1.00081e-13
+NC=2.00034 RB=4.89613 IRB=0.1 RBM=0.1
+RE=0.0002 RC=0.001 XTB=0.453845 XTI=2.88665 EG=1.05
+CJE=1.98486e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS



*TIP111
**************************************
* Model Generated by MODPEX *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
* Modeling services provided by *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT TIP111 1 2 3
* Model generated on Feb 7, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 1.34411
D1 3 1 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=3.38355e-12 BF=420.091 NF=0.999876 VAF=30
+IKF=0.0735469 ISE=9.55367e-11 NE=1.59376 BR=4.3812
+NR=0.75 VAR=92.4208 IKR=0.101198 ISC=1.00081e-13
+NC=2.00034 RB=4.89613 IRB=0.1 RBM=0.1
+RE=0.0002 RC=0.001 XTB=0.453845 XTI=2.88665 EG=1.05
+CJE=1.98486e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=4.38526e-11
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=3.38355e-12 BF=420.091 NF=0.999876 VAF=30
+IKF=0.0735469 ISE=9.55367e-11 NE=1.59376 BR=4.3812
+NR=0.75 VAR=92.4208 IKR=0.101198 ISC=1.00081e-13
+NC=2.00034 RB=4.89613 IRB=0.1 RBM=0.1
+RE=0.0002 RC=0.001 XTB=0.453845 XTI=2.88665 EG=1.05
+CJE=1.98486e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS



*TIP112
**************************************
* Model Generated by MODPEX *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
* Modeling services provided by *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT TIP112 1 2 3
* Model generated on Dec 26, 2003
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 1.34411
D1 3 1 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=3.38355e-12 BF=420.091 NF=0.999876 VAF=30
+IKF=0.0735469 ISE=9.55367e-11 NE=1.59376 BR=4.3812
+NR=0.75 VAR=92.4208 IKR=0.101198 ISC=1.00081e-13
+NC=2.00034 RB=4.89613 IRB=0.1 RBM=0.1
+RE=0.0002 RC=0.001 XTB=0.453845 XTI=2.88665 EG=1.05
+CJE=1.98486e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=4.38526e-11
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=3.38355e-12 BF=420.091 NF=0.999876 VAF=30
+IKF=0.0735469 ISE=9.55367e-11 NE=1.59376 BR=4.3812
+NR=0.75 VAR=92.4208 IKR=0.101198 ISC=1.00081e-13
+NC=2.00034 RB=4.89613 IRB=0.1 RBM=0.1
+RE=0.0002 RC=0.001 XTB=0.453845 XTI=2.88665 EG=1.05
+CJE=1.98486e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS





*TIP120
**************************************
* Model Generated by MODPEX *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
* Modeling services provided by *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT TIP120 1 2 3
* Model generated on Dec 26, 2003
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 2.80758
D1 3 1 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=3.29109e-14 BF=391.787 NF=0.894469 VAF=33.1384
+IKF=0.198445 ISE=1.21403e-10 NE=1.6375 BR=0.1
+NR=1.34795 VAR=135.277 IKR=0.137744 ISC=1.01287e-13
+NC=1.97483 RB=4.90772 IRB=0.200762 RBM=4.90772
+RE=0.0826202 RC=0.413101 XTB=0.584577 XTI=2.92564 EG=1.05
+CJE=2.09731e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.53283e-10
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=3.29109e-14 BF=391.787 NF=0.894469 VAF=33.1384
+IKF=0.198445 ISE=1.21403e-10 NE=1.6375 BR=0.1
+NR=1.34795 VAR=135.277 IKR=0.137744 ISC=1.01287e-13
+NC=1.97483 RB=4.90772 IRB=0.200762 RBM=4.90772
+RE=0.0826202 RC=0.413101 XTB=0.584577 XTI=2.92564 EG=1.05
+CJE=2.09731e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS



*TIP121
**************************************
* Model Generated by MODPEX *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
* Modeling services provided by *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT TIP121 1 2 3
* Model generated on Feb 8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 2.80758
D1 3 1 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=3.29109e-14 BF=391.787 NF=0.894469 VAF=33.1384
+IKF=0.198445 ISE=1.21403e-10 NE=1.6375 BR=0.1
+NR=1.34795 VAR=135.277 IKR=0.137744 ISC=1.01287e-13
+NC=1.97483 RB=4.90772 IRB=0.200762 RBM=4.90772
+RE=0.0826202 RC=0.413101 XTB=0.584577 XTI=2.92564 EG=1.05
+CJE=2.09731e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.53283e-10
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=3.29109e-14 BF=391.787 NF=0.894469 VAF=33.1384
+IKF=0.198445 ISE=1.21403e-10 NE=1.6375 BR=0.1
+NR=1.34795 VAR=135.277 IKR=0.137744 ISC=1.01287e-13
+NC=1.97483 RB=4.90772 IRB=0.200762 RBM=4.90772
+RE=0.0826202 RC=0.413101 XTB=0.584577 XTI=2.92564 EG=1.05
+CJE=2.09731e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS



*TIP122
.SUBCKT TIP122 1 2 3
**************************************
* Model Generated by MODPEX *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
* Modeling services provided by *
* Interface Technologies www.i-t.com *
**************************************
* Model generated on Dec 19, 2003
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 2.7545
D1 3 1 dmodel
R1 2 4 10000
R2 4 3 1000
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=1.15528e-13 BF=387.828 NF=0.937439 VAF=30
+IKF=0.270029 ISE=5.36359e-11 NE=1.54544 BR=0.1
+NR=1.5 VAR=134.979 IKR=0.109764 ISC=1.00329e-13
+NC=1.97549 RB=4.9473 IRB=0.200762 RBM=4.9473
+RE=0.0964614 RC=0.482307 XTB=0.580269 XTI=2.92642 EG=1.05
+CJE=2.08206e-10 VJE=0.945586 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67927e-10
+VJC=0.754327 MJC=0.289398 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=1.15528e-13 BF=387.828 NF=0.937439 VAF=30
+IKF=0.270029 ISE=5.36359e-11 NE=1.54544 BR=0.1
+NR=1.5 VAR=134.979 IKR=0.109764 ISC=1.00329e-13
+NC=1.97549 RB=4.9473 IRB=0.200762 RBM=4.9473
+RE=0.0964614 RC=0.482307 XTB=0.580269 XTI=2.92642 EG=1.05
+CJE=2.08206e-10 VJE=0.945586 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.754327 MJC=0.289398 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS





*TIP140
**************************************
* Model Generated by MODPEX *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
* Modeling services provided by *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT TIP140 1 2 3
* Model generated on Feb 8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 19.6725
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=2.92836e-16 BF=233.76 NF=1.2 VAF=1000
+IKF=0.222129 ISE=4.61322e-11 NE=2.48158 BR=1.89854
+NR=0.75 VAR=168.458 IKR=0.108495 ISC=9.99999e-14
+NC=2.00001 RB=7.90758 IRB=0.2 RBM=7.90758
+RE=0.275456 RC=1.42279 XTB=0.232595 XTI=3.02293 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=2.92836e-16 BF=233.76 NF=1.2 VAF=1000
+IKF=0.222129 ISE=4.61322e-11 NE=2.48158 BR=1.89854
+NR=0.75 VAR=168.458 IKR=0.108495 ISC=9.99999e-14
+NC=2.00001 RB=7.90758 IRB=0.2 RBM=7.90758
+RE=0.275456 RC=1.42279 XTB=0.232595 XTI=3.02293 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS



*TIP141
**************************************
* Model Generated by MODPEX *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
* Modeling services provided by *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT TIP141 1 2 3
* Model generated on Feb 8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 19.6725
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=2.92836e-16 BF=233.76 NF=1.2 VAF=1000
+IKF=0.222129 ISE=4.61322e-11 NE=2.48158 BR=1.89854
+NR=0.75 VAR=168.458 IKR=0.108495 ISC=9.99999e-14
+NC=2.00001 RB=7.90758 IRB=0.2 RBM=7.90758
+RE=0.275456 RC=1.42279 XTB=0.232595 XTI=3.02293 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=2.92836e-16 BF=233.76 NF=1.2 VAF=1000
+IKF=0.222129 ISE=4.61322e-11 NE=2.48158 BR=1.89854
+NR=0.75 VAR=168.458 IKR=0.108495 ISC=9.99999e-14
+NC=2.00001 RB=7.90758 IRB=0.2 RBM=7.90758
+RE=0.275456 RC=1.42279 XTB=0.232595 XTI=3.02293 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS



*TIP142
**************************************
* Model Generated by MODPEX *
*Copyright(c) Symmetry Design Systems*
* All Rights Reserved *
* UNPUBLISHED LICENSED SOFTWARE *
* Contains Proprietary Information *
* Which is The Property of *
* SYMMETRY OR ITS LICENSORS *
* Modeling services provided by *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT TIP142 1 2 3
* Model generated on Feb 8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 19.6725
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
* EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=2.92836e-16 BF=233.76 NF=1.2 VAF=1000
+IKF=0.222129 ISE=4.61322e-11 NE=2.48158 BR=1.89854
+NR=0.75 VAR=168.458 IKR=0.108495 ISC=9.99999e-14
+NC=2.00001 RB=7.90758 IRB=0.2 RBM=7.90758
+RE=0.275456 RC=1.42279 XTB=0.232595 XTI=3.02293 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=2.92836e-16 BF=233.76 NF=1.2 VAF=1000
+IKF=0.222129 ISE=4.61322e-11 NE=2.48158 BR=1.89854
+NR=0.75 VAR=168.458 IKR=0.108495 ISC=9.99999e-14
+NC=2.00001 RB=7.90758 IRB=0.2 RBM=7.90758
+RE=0.275456 RC=1.42279 XTB=0.232595 XTI=3.02293 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS

.SUBCKT BDW93C 1 2 3 
Q1 1 2 4 Q1model
Q2 1 4 3 Q2model 5.2266
D1 3 1 Dmodel
R1 2 4 10.000E3
R2 4 3 600
.MODEL Dmodel D
+ IS=1.67E-12 N=1.01 RS=1.854
+ CJO=2.8833E-10 M=0.3227 VJ=0.4449
+ BV=110.0 IBV=0.1
.MODEL Q1model NPN
+ IS=1.4507E-14 BF=7.88E3 NF=0.85
+ VAF=138.92 IKF=0.8207 ISE=6.298E-13
+ NE=1.2 BR=21.99 NR=0.8
+ VAR=200 IKR=0.5 ISC=1.367E-13
+ NC=2.8 RB=6.193 NK=0.6 
+ RE=0.001 RC=0.185 EG=1.110
+ CJE=1.055E-10 VJE=0.7775 MJE=0.4512 
+ CJC=1.601E-10 VJC=0.8966 MJC=0.3035
+ XCJC=0.4455 FC=0.5
.MODEL Q2model NPN 
+ IS=1.4507E-14 BF=7.88E3 NF=0.85
+ VAF=138.92 IKF=0.8207 ISE=6.298E-13
+ NE=1.2 BR=21.99 NR=0.8
+ VAR=200 IKR=0.5 ISC=1.367E-13
+ NC=2.8 RB=6.193 NK=0.6 
+ RE=0.001 RC=0.185 EG=1.110
+ CJE=1.055E-10 VJE=0.7775 MJE=0.4512 
+ CJC=1.601E-10 VJC=0.8966 MJC=0.3035
+ XCJC=0.4455 FC=0.5
.ENDS BDW93C

.SUBCKT bd679 1 2 3
* Model generated on Feb 14, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 5.21716
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 120
.MODEL dmodel d
+IS=1e-12 RS=9.53186 N=0.964987 XTI=2.96499
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=6.82736e-17 BF=43.4441 NF=0.85 VAF=30
+IKF=1.14362 ISE=9.48937e-15 NE=2.04295 BR=0.665831
+NR=1.5 VAR=64.8234 IKR=0.0980345 ISC=9.48937e-15
+NC=1 RB=20.4512 IRB=0.277791 RBM=16.9143
+RE=0.574152 RC=6.88011 XTB=0.401039 XTI=2.96301 EG=1.05
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1e-11
+VJC=0.75 MJC=0.33 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=6.82736e-17 BF=43.4441 NF=0.85 VAF=30
+IKF=1.14362 ISE=9.48937e-15 NE=2.04295 BR=0.665831
+NR=1.5 VAR=64.8234 IKR=0.0980345 ISC=9.48937e-15
+NC=1 RB=20.4512 IRB=0.277791 RBM=16.9143
+RE=0.574152 RC=6.88011 XTB=0.401039 XTI=2.96301 EG=1.05
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.75 MJC=0.33 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS


